US06117870
2.5 g (5.6 mmol) of phenylmethyl 1-[N-[4-(2-methyl-2-propyloxycarbonyl) piperazine-1-carbonyl]amino]cyclohexanecarboxylate synthesized in Reference Example 8 was dissolved in ethyl acetate and 14 ml (56 mmol) of 4N hydrogenchloride-ethyl acetate solution (56 mmol) was added to the above prepared mixture under 0° C. and stirred for 3 hours at the room temperature. After completion of concentration of the reaction solution, the reaction solution was dissolved in 1N hydrochloric acid and washed with ethyl acetate. The water layer was separated out and was made into pH 9 with the addition of sodium carbonate and extracted three times with chloroform. The chloroform layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure, whereby 1.7 g of phenylmethyl 1-[N-(piperazine-1-carbonyl)amino]cyclohexanecarboxylate was obtained.

reactant | phenylmethyl 1-[N-[4-(2-methyl-2-propyloxycarbonyl) piperazine-1-carbonyl]amino]cyclohexanecarboxylate | 5.6 mmol, 2.5 g | CC(C)(C)OC(=O)N1CCN(CC1)C(=O)NC1(CCCCC1)C(=O)OCC1=CC=CC=C1 | C24H35N3O5
reactant | hydrogenchloride ethyl acetate | 56 mmol, 4N, 14 ml | Cl.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 1N | Cl | ClH
product | phenylmethyl 1-[N-(piperazine-1-carbonyl)amino]cyclohexanecarboxylate | 1.7 g | N1(CCNCC1)C(=O)NC1(CCCCC1)C(=O)OCC1=CC=CC=C1 | C19H27N3O3
